US07335660B2
e) 3-{[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one
To a stirred solution of 3-{[(1S)-1-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one (0.22 g, 0.43 mmol) in dry THF (30 ml) was added tetrabutylammonium fluoride (1M solution in THF) (0.51 mL, 0.51 mmol) and the reaction stirred at room temperature under nitrogen over the weekend. The reaction was quenched by addition of water and extracted with dichloromethane. The combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica, eluting with methanol/dichloromethane (1:9), to yield the title compound as a colourless oil.

reactant | 3-{[(1S)-1-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one | 0.43 mmol, 0.22 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)CN2C(OCC2)=O | C31H37NO4Si
reactant | tetrabutylammonium fluoride | 0.51 mmol, 1M, 0.51 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-{[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one | OCC[C@@H]1OCCC2=C1C=CC(=C2)CN2C(OCC2)=O | C15H19NO4
